US09260414B2
((S)-1-{(S)-2-[4-(4′-Amino-5′-chloro-2′-trifluoromethyl-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester
Potassium carbonate (280 mg, 2.0 mmol) was added to a solution of [(S)-2-methyl-1-((S)-2-{4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester (200 mg, 0.40 mmol) and 5-amino-2-bromo-4-chlorobenzotrifluoride (110 mg, 0.40 mmol; Preparation 51) dissolved in toluene (1.3 mL) and water (0.43 mL). The reaction mixture was sparged under nitrogen. Tetrakis(triphenylphosphine)palladium(0) (56 mg, 0.48 mmol) was added and the reaction mixture was sparged with nitrogen and heated at 100° C. for 4 h. The reaction mixture was diluted in ethyl acetate and washed with water and brine. The organic layer was dried over sodium sulfate, filtered, and concentrated to produce a red solid, which was purified by silica gel chromatography (0-100% ethyl acetate:hexanes) to produce the desired product as a yellow solid.

reactant | Potassium carbonate | 2.0 mmol, 280 mg | C([O-])([O-])=O.[K+].[K+]
reactant | [(S)-2-methyl-1-((S)-2-{4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester | 0.40 mmol, 200 mg | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C26H37BN4O5
reactant | 5-amino-2-bromo-4-chlorobenzotrifluoride | 0.40 mmol, 110 mg | NC=1C(=CC(=C(C1)C(F)(F)F)Br)Cl | C7H4BrClF3N
solvent | toluene | 1.3 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.43 mL | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.48 mmol, 56 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ((S)-1-{(S)-2-[4-(4′-Amino-5′-chloro-2′-trifluoromethyl-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC=C(C=C1)C1=C(C=C(C(=C1)Cl)N)C(F)(F)F)=O | C27H29ClF3N5O3
